US06215004B1
To a 200 gallon reactor equipped with an efficient cooling system was charged methyl tert-butyl ether (MtBE, 278 L), DMAP (391 g, 3.2 moles), triethylamine (102.3 L, 74.4 kg, 736.2 moles) and 2-butene-1,4-diol (26.4 L, 28.2 kg, 320 moles). The stirrer was started and the temperature of the reaction mixture was cooled to approximately 4° C. Butyryl chloride (69.6 L, 71.5 kg, 672 moles) was added to the reaction mixture at such a rate as to maintain the batch temperature below 20° C. The triethylamine hydrochloride precipitates during the addition and the reaction mixture becomes a thick, but movable slurry. Thin layer chromatographic analysis of the reaction mixture (silica gel plate; Analtech No. 02521, eluted with 9:1 hexane/EtOAc, and visualized with PMA stain) indicated the reaction was complete after stirring for an additional hour after the addition was complete. Water (120 L) was added to the reactor, and the resulting mixture was stirred until all of the solids dissolved. The phases were separated. The lower (aqueous) layer was checked by TLC analysis for the absence of product (if product is present, save the layer for future product recovery). The upper, organic layer was washed with water (72 L), saturated aqueous potassium bicarbonate (72 L, checked to make sure the exiting aqueous layer was basic, evaporated, under reduced pressure, to afford 69.4 kg of 2-butene-1,4-dibutyrate (95% yield) as a pale golden oil. The NMR spectrum was consistent with a reference spectrum.

reactant | triethylamine | 736.2 moles, 102.3 L, 74.4 kg | C(C)N(CC)CC | C6H15N
reactant | 2-butene-1,4-diol | 320 moles, 26.4 L, 28.2 kg | C(C=CCO)O | C4H8O2
reactant | Butyryl chloride | 672 moles, 69.6 L, 71.5 kg | C(CCC)(=O)Cl | C4H7ClO
reactant | methyl tert-butyl ether | 278 L | C(C)(C)(C)OC | C5H12O
catalyst | DMAP | 3.2 moles, 391 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-butene-1,4-dibutyrate | 69.4 kg, 95% yield | CCCC(=O)OC/C=C/COC(=O)CCC | C12H20O4
